* SPICE3 file created from test.ext - technology: scmos  .option scale=1u

M1000 a_n1229_208# clock vdd vdd pfet w=8 l=2
+ ad=56 pd=30 as=4128 ps=2376
M1001 a_n1172_209# FF3 vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1002 vdd a_n1229_208# a_n1172_209# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1003 a_n1075_209# a_n1159_130# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1004 vdd a_n1229_208# a_n1075_209# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1005 a_n989_209# a_n1075_209# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1006 vdd a_n954_207# a_n989_209# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1007 a_n954_207# a_n989_209# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1008 vdd a_n1172_209# a_n954_207# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1009 a_n761_209# a_n954_207# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1010 vdd clock a_n761_209# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1011 a_n665_210# a_n748_134# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1012 vdd clock a_n665_210# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1013 a_n583_209# a_n665_210# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1014 vdd FF4 a_n583_209# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1015 FF4 a_n583_209# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1016 vdd a_n761_209# FF4 vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1017 a_n1229_208# clock gnd Gnd nfet w=4 l=2
+ ad=28 pd=22 as=1344 ps=1056
M1018 a_n1163_209# FF3 a_n1172_209# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1019 gnd a_n1229_208# a_n1163_209# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1020 a_n1066_209# a_n1159_130# a_n1075_209# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1021 gnd a_n1229_208# a_n1066_209# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1022 a_n980_209# a_n1075_209# a_n989_209# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1023 gnd a_n954_207# a_n980_209# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1024 a_n906_209# a_n989_209# a_n954_207# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1025 gnd a_n1172_209# a_n906_209# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1026 a_n752_209# a_n954_207# a_n761_209# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1027 gnd clock a_n752_209# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1028 a_n656_210# a_n748_134# a_n665_210# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1029 gnd clock a_n656_210# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1030 a_n574_209# a_n665_210# a_n583_209# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1031 gnd FF4 a_n574_209# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1032 a_n492_209# a_n583_209# FF4 Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1033 gnd a_n761_209# a_n492_209# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1034 a_n1159_130# FF3 vdd vdd pfet w=8 l=2
+ ad=56 pd=30 as=0 ps=0
M1035 a_n748_134# a_n954_207# vdd vdd pfet w=8 l=2
+ ad=56 pd=30 as=0 ps=0
M1036 a_n748_134# a_n954_207# gnd Gnd nfet w=4 l=2
+ ad=28 pd=22 as=0 ps=0
M1037 a_n1159_130# FF3 gnd Gnd nfet w=4 l=2
+ ad=28 pd=22 as=0 ps=0
M1038 a_n1229_n64# clock vdd vdd pfet w=8 l=2
+ ad=56 pd=30 as=0 ps=0
M1039 a_n1172_n63# FF2 vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1040 vdd a_n1229_n64# a_n1172_n63# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1041 a_n1075_n63# a_n1159_n142# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1042 vdd a_n1229_n64# a_n1075_n63# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1043 a_n989_n63# a_n1075_n63# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1044 vdd a_n954_n65# a_n989_n63# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1045 a_n954_n65# a_n989_n63# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1046 vdd a_n1172_n63# a_n954_n65# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1047 a_n761_n63# a_n954_n65# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1048 vdd clock a_n761_n63# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1049 a_n665_n62# a_n748_n138# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1050 vdd clock a_n665_n62# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1051 a_n583_n63# a_n665_n62# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1052 vdd FF3 a_n583_n63# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1053 FF3 a_n583_n63# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1054 vdd a_n761_n63# FF3 vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1055 a_n1229_n64# clock gnd Gnd nfet w=4 l=2
+ ad=28 pd=22 as=0 ps=0
M1056 a_n1163_n63# FF2 a_n1172_n63# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1057 gnd a_n1229_n64# a_n1163_n63# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1058 a_n1066_n63# a_n1159_n142# a_n1075_n63# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1059 gnd a_n1229_n64# a_n1066_n63# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1060 a_n980_n63# a_n1075_n63# a_n989_n63# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1061 gnd a_n954_n65# a_n980_n63# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1062 a_n906_n63# a_n989_n63# a_n954_n65# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1063 gnd a_n1172_n63# a_n906_n63# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1064 a_n752_n63# a_n954_n65# a_n761_n63# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1065 gnd clock a_n752_n63# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1066 a_n656_n62# a_n748_n138# a_n665_n62# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1067 gnd clock a_n656_n62# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1068 a_n574_n63# a_n665_n62# a_n583_n63# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1069 gnd FF3 a_n574_n63# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1070 a_n492_n63# a_n583_n63# FF3 Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1071 gnd a_n761_n63# a_n492_n63# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1072 a_n1159_n142# FF2 vdd vdd pfet w=8 l=2
+ ad=56 pd=30 as=0 ps=0
M1073 a_n748_n138# a_n954_n65# vdd vdd pfet w=8 l=2
+ ad=56 pd=30 as=0 ps=0
M1074 a_n748_n138# a_n954_n65# gnd Gnd nfet w=4 l=2
+ ad=28 pd=22 as=0 ps=0
M1075 a_n1159_n142# FF2 gnd Gnd nfet w=4 l=2
+ ad=28 pd=22 as=0 ps=0
M1076 a_n1229_n315# clock vdd vdd pfet w=8 l=2
+ ad=56 pd=30 as=0 ps=0
M1077 a_n1172_n314# FF1 vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1078 vdd a_n1229_n315# a_n1172_n314# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1079 a_n1075_n314# a_n1159_n393# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1080 vdd a_n1229_n315# a_n1075_n314# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1081 a_n989_n314# a_n1075_n314# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1082 vdd a_n954_n316# a_n989_n314# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1083 a_n954_n316# a_n989_n314# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1084 vdd a_n1172_n314# a_n954_n316# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1085 a_n761_n314# a_n954_n316# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1086 vdd clock a_n761_n314# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1087 a_n665_n313# a_n748_n389# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1088 vdd clock a_n665_n313# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1089 a_n583_n314# a_n665_n313# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1090 vdd FF2 a_n583_n314# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1091 FF2 a_n583_n314# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1092 vdd a_n761_n314# FF2 vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1093 a_n1229_n315# clock gnd Gnd nfet w=4 l=2
+ ad=28 pd=22 as=0 ps=0
M1094 a_n1163_n314# FF1 a_n1172_n314# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1095 gnd a_n1229_n315# a_n1163_n314# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1096 a_n1066_n314# a_n1159_n393# a_n1075_n314# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1097 gnd a_n1229_n315# a_n1066_n314# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1098 a_n980_n314# a_n1075_n314# a_n989_n314# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1099 gnd a_n954_n316# a_n980_n314# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1100 a_n906_n314# a_n989_n314# a_n954_n316# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1101 gnd a_n1172_n314# a_n906_n314# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1102 a_n752_n314# a_n954_n316# a_n761_n314# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1103 gnd clock a_n752_n314# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1104 a_n656_n313# a_n748_n389# a_n665_n313# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1105 gnd clock a_n656_n313# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1106 a_n574_n314# a_n665_n313# a_n583_n314# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1107 gnd FF2 a_n574_n314# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1108 a_n492_n314# a_n583_n314# FF2 Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1109 gnd a_n761_n314# a_n492_n314# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1110 a_n1159_n393# FF1 vdd vdd pfet w=8 l=2
+ ad=56 pd=30 as=0 ps=0
M1111 a_n748_n389# a_n954_n316# vdd vdd pfet w=8 l=2
+ ad=56 pd=30 as=0 ps=0
M1112 a_n748_n389# a_n954_n316# gnd Gnd nfet w=4 l=2
+ ad=28 pd=22 as=0 ps=0
M1113 a_n1159_n393# FF1 gnd Gnd nfet w=4 l=2
+ ad=28 pd=22 as=0 ps=0
M1114 a_n1230_n563# clock vdd vdd pfet w=8 l=2
+ ad=56 pd=30 as=0 ps=0
M1115 a_n1173_n562# D vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1116 vdd a_n1230_n563# a_n1173_n562# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1117 a_n1076_n562# a_n1160_n641# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1118 vdd a_n1230_n563# a_n1076_n562# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1119 a_n990_n562# a_n1076_n562# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1120 vdd a_n955_n564# a_n990_n562# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1121 a_n955_n564# a_n990_n562# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1122 vdd a_n1173_n562# a_n955_n564# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1123 a_n762_n562# a_n955_n564# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1124 vdd clock a_n762_n562# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1125 a_n666_n561# a_n749_n637# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1126 vdd clock a_n666_n561# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1127 a_n584_n562# a_n666_n561# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1128 vdd FF1 a_n584_n562# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1129 FF1 a_n584_n562# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1130 vdd a_n762_n562# FF1 vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1131 a_n1230_n563# clock gnd Gnd nfet w=4 l=2
+ ad=28 pd=22 as=0 ps=0
M1132 a_n1164_n562# D a_n1173_n562# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1133 gnd a_n1230_n563# a_n1164_n562# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1134 a_n1067_n562# a_n1160_n641# a_n1076_n562# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1135 gnd a_n1230_n563# a_n1067_n562# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1136 a_n981_n562# a_n1076_n562# a_n990_n562# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1137 gnd a_n955_n564# a_n981_n562# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1138 a_n907_n562# a_n990_n562# a_n955_n564# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1139 gnd a_n1173_n562# a_n907_n562# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1140 a_n753_n562# a_n955_n564# a_n762_n562# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1141 gnd clock a_n753_n562# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1142 a_n657_n561# a_n749_n637# a_n666_n561# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1143 gnd clock a_n657_n561# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1144 a_n575_n562# a_n666_n561# a_n584_n562# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1145 gnd FF1 a_n575_n562# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1146 a_n493_n562# a_n584_n562# FF1 Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1147 gnd a_n762_n562# a_n493_n562# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1148 a_n1160_n641# D vdd vdd pfet w=8 l=2
+ ad=56 pd=30 as=0 ps=0
M1149 a_n749_n637# a_n955_n564# vdd vdd pfet w=8 l=2
+ ad=56 pd=30 as=0 ps=0
M1150 a_n749_n637# a_n955_n564# gnd Gnd nfet w=4 l=2
+ ad=28 pd=22 as=0 ps=0
M1151 a_n1160_n641# D gnd Gnd nfet w=4 l=2
+ ad=28 pd=22 as=0 ps=0
M1152 D a_n1220_n721# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1153 vdd a_n1188_n737# D vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1154 a_n1188_n737# FF4 vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1155 vdd a_n1105_n737# a_n1188_n737# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1156 a_n1220_n721# FF1 vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1157 vdd a_n1105_n737# a_n1220_n721# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1158 a_n1105_n737# FF4 vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1159 vdd FF1 a_n1105_n737# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1160 a_n1214_n735# a_n1220_n721# D Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1161 gnd a_n1188_n737# a_n1214_n735# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1162 a_n1131_n735# FF4 a_n1188_n737# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1163 gnd a_n1105_n737# a_n1131_n735# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1164 a_n1024_n735# FF1 a_n1220_n721# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1165 gnd a_n1105_n737# a_n1024_n735# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1166 a_n941_n735# FF4 a_n1105_n737# Gnd nfet w=4 l=2
+ ad=56 pd=44 as=28 ps=22
M1167 gnd FF1 a_n941_n735# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0



rgnd gnd 0 1e-6
v1 vdd gnd 5


v2 clock gnd pulse(0 5 30ns 0.5ps 0.5ps 20ns 30ns)

.trans 1ns 1000ns
.MODEL nfet NMOS ( kp=4.32e-4 vt0=0.4)
.MODEL pfet pMOS ( kp=1.12e-4 vt0=-0.4)
.print dc v(D)
.print dc v(FF1)
.print dc v(FF2)
.print dc v(FF3)
.print dc v(FF4)

.print dc v(clock)



.end
