

M1000 invout clock vdd vdd pfet w=8 l=2
+ ad=56 pd=30 as=936 ps=538
M1001 a_n1186_n32# D vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1002 vdd invout a_n1186_n32# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1003 a_n1089_n32# a_n1173_n111# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1004 vdd invout a_n1089_n32# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1005 a_n1003_n32# a_n1089_n32# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1006 vdd a_n968_n33# a_n1003_n32# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1007 a_n968_n33# a_n1003_n32# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1008 vdd a_n1186_n32# a_n968_n33# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1009 a_n775_n32# a_n968_n33# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1010 vdd clock a_n775_n32# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1011 a_n679_n32# a_n762_n107# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1012 vdd clock a_n679_n32# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1013 a_n597_n32# a_n679_n32# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1014 vdd out a_n597_n32# vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1015 out a_n597_n32# vdd vdd pfet w=8 l=2
+ ad=96 pd=56 as=0 ps=0
M1016 vdd a_n775_n32# out vdd pfet w=8 l=2
+ ad=0 pd=0 as=0 ps=0
M1017 invout clock gnd Gnd nfet w=4 l=2
+ ad=32 pd=24 as=352 ps=264
M1018 a_n1177_n31# D a_n1186_n32# Gnd nfet w=4 l=2
+ ad=64 pd=48 as=32 ps=24
M1019 gnd invout a_n1177_n31# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1020 a_n1080_n31# a_n1173_n111# a_n1089_n32# Gnd nfet w=4 l=2
+ ad=64 pd=48 as=32 ps=24
M1021 gnd invout a_n1080_n31# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1022 a_n994_n31# a_n1089_n32# a_n1003_n32# Gnd nfet w=4 l=2
+ ad=64 pd=48 as=32 ps=24
M1023 gnd a_n968_n33# a_n994_n31# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1024 a_n920_n31# a_n1003_n32# a_n968_n33# Gnd nfet w=4 l=2
+ ad=64 pd=48 as=32 ps=24
M1025 gnd a_n1186_n32# a_n920_n31# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1026 a_n766_n31# a_n968_n33# a_n775_n32# Gnd nfet w=4 l=2
+ ad=64 pd=48 as=32 ps=24
M1027 gnd clock a_n766_n31# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1028 a_n670_n31# a_n762_n107# a_n679_n32# Gnd nfet w=4 l=2
+ ad=64 pd=48 as=32 ps=24
M1029 gnd clock a_n670_n31# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1030 a_n588_n31# a_n679_n32# a_n597_n32# Gnd nfet w=4 l=2
+ ad=64 pd=48 as=32 ps=24
M1031 gnd out a_n588_n31# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1032 a_n506_n31# a_n597_n32# out Gnd nfet w=4 l=2
+ ad=64 pd=48 as=32 ps=24
M1033 gnd a_n775_n32# a_n506_n31# Gnd nfet w=4 l=2
+ ad=0 pd=0 as=0 ps=0
M1034 a_n1173_n111# D vdd vdd pfet w=8 l=2
+ ad=56 pd=30 as=0 ps=0
M1035 a_n762_n107# a_n968_n33# vdd vdd pfet w=8 l=2
+ ad=56 pd=30 as=0 ps=0
M1036 a_n1173_n111# D gnd Gnd nfet w=4 l=2
+ ad=32 pd=24 as=0 ps=0
M1037 a_n762_n107# a_n968_n33# gnd Gnd nfet w=4 l=2
+ ad=32 pd=24 as=0 ps=0


rgnd gnd 0 1e-6
v3 vdd gnd 5
v1 D 0 pulse(0 5 180ns 0ns 0ns 100ns 500ns)
v2 clock 0 pulse(0 5 90ns 0ns 0ns 40ns 100ns)

.trans 1ns 1000ns
..MODEL nfet NMOS ( kp=4.32e-4 vt0=0.4)
.MODEL pfet pMOS ( kp=1.12e-4 vt0=-0.4)


.print dc v(clock)
.print dc v(invout)

.print dc v(D)
.print dc v(out)

.end
